US04171369
(3aRS,4SR,9aSR)-4-(3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindolin-2-yl)-2-butanone [variant of process (a)]
A solution of 7.4 g of (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline in 60 cc of ethanol is heated to the boil at reflux for 11/2 hours after the addition of 3 cc of methylvinylketone, and is subsequently concentrated by evaporation. The residue is chromatographed on silica gel with ethyl acetate. After concentrating by evaporation, the filtrate yields the title compound as oily residue. Hydrogen maleate salt form: M.P. 121°-124° (after crystallization from ethanol).

reactant | (3aRS,4SR,9aSR)-3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindoline | 7.4 g | C1(=CC=CC=C1)C1C2=C(CC3CNCC13)C=CC=C2 | C18H19N
reactant | methylvinylketone | 3 cc | CC(=O)C=C | C4H6O
solvent | ethanol | 60 cc | C(C)O | C2H6O
product | (3aRS,4SR,9aSR)-4-(3a,4,9,9a-tetrahydro-4-phenyl-benz[f]isoindolin-2-yl)-2-butanone | C1(=CC=CC=C1)C1C2=C(CC3CN(CC13)CCC(C)=O)C=CC=C2 | C22H25NO
